US06713474B2
5-(4-Amino-3-methoxyphenyl)-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (25 mg, 0.074 mmol) was dissolved in dichloromethane (0.7 mL). Pyridine (0.7 mL) was added followed by 4-nitrophenyl (3-pyridylmethyl) carbonate (30 mg, 0.110 mmol). After heating at 100° C. overnight, the solvent was removed and the residue was purified by preparative LC/MS to give 3-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (12 mg, 0.025 mmol). 1H NMR (CDCl3-d) δ 2.08 (m, 4H), 3.65 (m, 2H), 3.92 (s, 3H), 4.15 (m, 2H), 4.96 (m, 1H), 5.26 (s, 2H), 5.54 (bs, 2H), 6.97 (s, 1H), 7.04 (s, 1H), 7.08 (d, J=8.2 Hz, 1H), 7.35 (m, 2H), 7.79 (d, J=7.8 Hz, 1H), 8.15 (m, 1H), 8.29 (s, 1H), 8.61 (s, 1H), 8.71 (s, 1H). LC/MS MH+=475.

reactant | 5-(4-Amino-3-methoxyphenyl)-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.074 mmol, 25 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCOCC2)OC | C18H21N5O2
reactant | Pyridine | 0.7 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl (3-pyridylmethyl) carbonate | 0.110 mmol, 30 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCC=1C=NC=CC1)=O | C13H10N2O5
solvent | dichloromethane | 0.7 mL | ClCCl | CH2Cl2
product | 3-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.025 mmol, 12 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC=2C=NC=CC2)=O)OC)C2CCOCC2 | C25H26N6O4
